US07132436B2
3-Bromo-5-chloro-N-(7-methoxy4,5-dihydronaphtho[1,2-d][1,3]thiazol-2-yl)-2-thiophenesulfonamide
The title compound was prepared 7-methoxy-4,5-dihydronaphtho(1,2-D)(1,3)thiazol-2-amine hydrobromide (85 mg) and 3-bromo-5-chlorothiophene-2-sulfonyl chloride (80 mg) as described in the synthetic METHOD B to give a white solid (17.8 mg) with purity >80%: MS (pos) m/z 491.3, 493.3.

reactant | 7-methoxy-4,5-dihydronaphtho(1,2-D)(1,3)thiazol-2-amine hydrobromide | 85 mg | Br.COC=1C=C2CCC3=C(N=C(S3)N)C2=CC1
reactant | 3-bromo-5-chlorothiophene-2-sulfonyl chloride | 80 mg | BrC1=C(SC(=C1)Cl)S(=O)(=O)Cl | C4HBrCl2O2S2
product | 3-Bromo-5-chloro-N-(7-methoxy4,5-dihydronaphtho[1,2-d][1,3]thiazol-2-yl)-2-thiophenesulfonamide | BrC1=C(SC(=C1)Cl)S(=O)(=O)NC=1SC2=C(N1)C1=CC=C(C=C1CC2)OC | C16H12BrClN2O3S3
